US08168794B2
A solution containing 1 eq each of tert-butyl(1S,3R,5S)-3-(3-aminopyridin-4-yl)-5-methylcyclohexylcarbamate, 2-bromothiazole-4-carboxylic acid, HOAT and EDC in DMF, at a concentration of 0.3 M, was stirred for 17 hours. The solution was diluted with EtOAc and was washed with H2O (4×), NaCl(sat.), was dried over MgSO4, was filtered and the volatiles were removed in vacuo yielding tert-butyl (1S,3R,5S)-3-(3-(2-bromothiazole-4-carboxamido)pyridin-4-yl)-5-methylcyclohexylcarbamate, LCMS (m/z): 495.1/497.1 (MH+); LC Rt=3.17 min.

reactant | tert-butyl(1S,3R,5S)-3-(3-aminopyridin-4-yl)-5-methylcyclohexylcarbamate | 1 eq | NC=1C=NC=CC1[C@H]1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C17H27N3O2
reactant | 2-bromothiazole-4-carboxylic acid | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | HOAT | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (1S,3R,5S)-3-(3-(2-bromothiazole-4-carboxamido)pyridin-4-yl)-5-methylcyclohexylcarbamate | BrC=1SC=C(N1)C(=O)NC=1C=NC=CC1[C@H]1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C21H27BrN4O3S
